US07214835B2
The crude production of (E)-7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]ethenyl]-1,2,8-trifluoronaphthalene (16.6 g), 5% palladium-carbon (with 10% moisture) (3.1 g), tetrahydrofuran (100 ml) were added in an autoclave and reacted for 4 hours at room temperature under 4 atm of hydrogen. The reaction solution was filtrated with celite, and the filtrate was concentrated. Then, 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]phenyl]-1,2,8-trifluoronaphthalene (9 g) was obtained.

reactant | (E)-7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]ethenyl]-1,2,8-trifluoronaphthalene | 16.6 g | C(C)OC1=CC=C2C=C(C(=C(C2=C1F)F)F)\C=C\[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC | C30H39F3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 3.1 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-ethoxy-3-[2-[trans-4-(trans-4-butylcyclohexyl)cyclohexyl]phenyl]-1,2,8-trifluoronaphthalene | 9 g | C(C)OC1=CC=C2C=C(C(=C(C2=C1F)F)F)C1=C(C=CC=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC | C34H41F3O
